US07189873B2
a) Hydroxy-(4-methoxy-phenyl)-acetic acid hydrazide
To a solution of hydroxy-(4-methoxy-phenyl)-acetic acid (45 g, 0.25 mol) in 300 ml of methanol are added 30 drops of concentrated sulfuric acid at room temperature and the resulting mixture is heated to reflux for 4 hours. Subsequently the mixture is cooled and evaporated in vacuo. The remainder is taken up in water and extracted with ethyl acetate. The combined organic layer isn washed with brine, dried over magnesium sulfate and evaporated. The residue, which is hydroxy-(4-methoxy-phenyl)-acetic acid methyl ester, is dissolved in 350 ml of diethyl ether. Hydrazine monohydrate (47 ml, 0.95 mol) is added dropwise at room temperature and the mixture is stirred for 1 hour. The reaction mixture is poured on water and extracted with ethyl acetate. The combined organic layer is washed with brine, dried over magnesium sulfate and evaporated, the remaining hydroxy-(4-methoxy-phenyl)-acetic acid hydrazide is sufficiently pure to be used directly in the next step.

reactant | hydroxy-(4-methoxy-phenyl)-acetic acid | 0.25 mol, 45 g | OC(C(=O)O)C1=CC=C(C=C1)OC | C9H10O4
reactant | Hydrazine monohydrate | 0.95 mol, 47 ml | O.NN
solvent | methanol | 300 ml | CO | CH4O
catalyst | sulfuric acid | 30 drops | S(O)(O)(=O)=O | H2O4S
product | Hydroxy-(4-methoxy-phenyl)-acetic acid hydrazide | OC(C(=O)NN)C1=CC=C(C=C1)OC | C9H12N2O3
